US05661159
A mixture of 5-acetyl-2-methoxycarbonylbenzofuran (0.57 g), 2-amino-4-chlorobenzaldehyde (0.40 g) and p-toluenesulfonic acid monohydrate (0.04 mg) was stirred at 200° C. for 3 hours. After being cooled, the resulting mixture was dissolved in chloroform, washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and toluene (1:20). The fractions containing object compound were combined and concentrated under reduced pressure to give 7-chloro-2-(2-methoxycarbonylbenzofuran-5-yl)quinoline (0.32 g).

reactant | 5-acetyl-2-methoxycarbonylbenzofuran | 0.57 g | C(C)(=O)C=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C12H10O4
reactant | 2-amino-4-chlorobenzaldehyde | 0.40 g | NC1=C(C=O)C=CC(=C1)Cl | C7H6ClNO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | p-toluenesulfonic acid monohydrate | 0.04 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 7-chloro-2-(2-methoxycarbonylbenzofuran-5-yl)quinoline | 0.32 g | ClC1=CC=C2C=CC(=NC2=C1)C=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C19H12ClNO3
